US07101886B2
Starting with N-[4-(2-Chloro-acetyl)-2-isopropyl-phenyl]-acetamide (0.380 g, 1.498 mmole), and 3-piperazin-1-yl-benzo[d]isothiazole hydrochloride (0.383 g, 1.498 mmole, 1.0 eq) and following the procedure as outlined in Example 17, N-{4-[2-(4-Benzo[d]isothiazol-3-yl-piperazin-1-yl)-acetyl]-2-isopropyl-phenyl}-acetamide (0.360 g, 0.825 mmole) was obtained as its hydrochloride salt from treatment with dioxane/HCl(gas).

reactant | N-[4-(2-Chloro-acetyl)-2-isopropyl-phenyl]-acetamide | 1.498 mmole, 0.380 g | ClCC(=O)C1=CC(=C(C=C1)NC(C)=O)C(C)C | C13H16ClNO2
reactant | 3-piperazin-1-yl-benzo[d]isothiazole hydrochloride | 1.498 mmole, 0.383 g, 1.0 eq | Cl.N1(CCNCC1)C1=NSC2=C1C=CC=C2
product | N-{4-[2-(4-Benzo[d]isothiazol-3-yl-piperazin-1-yl)-acetyl]-2-isopropyl-phenyl}-acetamide | 0.825 mmole, 0.360 g, Yield=55% | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CC(=O)C2=CC(=C(C=C2)NC(C)=O)C(C)C | C24H28N4O2S
